US04711895
1.9 g (7.6 mmoles) of 3,5-dihydroxy-3-(4-phenoxybutyl)cyclopentene was dissolved in 15 ml of dichloromethane, and at 0° C. 5.7 g (15 mmoles) of pyridinium dichromate was added. The mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with 200 ml of ether, and filtered through Celite. After concentration, 1.32 g (71%) of 4-hydroxy-4-(4-phenoxybutyl)-2-cyclopentenone was obtained.

reactant | 3,5-dihydroxy-3-(4-phenoxybutyl)cyclopentene | 7.6 mmoles, 1.9 g | OC1(C=CC(C1)O)CCCCOC1=CC=CC=C1 | C15H20O3
reactant | pyridinium dichromate | 15 mmoles, 5.7 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4-hydroxy-4-(4-phenoxybutyl)-2-cyclopentenone | 1.32 g, 71% | OC1(C=CC(C1)=O)CCCCOC1=CC=CC=C1 | C15H18O3
